US07291643B2
N-[4-(5-cyano-1H-pyrrol-2-yl)phenyl]ethanesulfonamide
Tert-butyl-2-cyano-5-{4-{(ethylsulfonyl)amino]phenyl}-1H-pyrrole-1-carboxylate (2.3 g, 6.1 mmol) was dissolved in dimethylacetamide (60 mL) and heated to 170° C. for 30 minutes. The mixture was cooled and partitioned between water and ethyl acetate. The organic layers were dried over magnesium sulfate, and concentrated. The residue was purified by silica gel Flash Chromatography (hexane/ethyl acetate; 1:1) to afford the title compound (1.51 g, 90%).

reactant | Tert-butyl-2-cyano-5-{4-{(ethylsulfonyl)amino]phenyl}-1H-pyrrole-1-carboxylate | 6.1 mmol, 2.3 g | C(C)(C)(C)OC(=O)N1C(=CC=C1C1=CC=C(C=C1)NS(=O)(=O)CC)C#N | C18H21N3O4S
solvent | dimethylacetamide | 60 mL | CC(=O)N(C)C | C4H9NO
product | N-[4-(5-cyano-1H-pyrrol-2-yl)phenyl]ethanesulfonamide | 1.51 g, 90% | C(#N)C1=CC=C(N1)C1=CC=C(C=C1)NS(=O)(=O)CC | C13H13N3O2S
